US07807709B2
D. Carbonic acid (3R*,4S*)-1-benzyl-4-[(tert-butoxycarbonyl-isopropyl-amino)-methyl]-pyrrolidin-3-ylmethyl ester tert-butyl ester
A suspension of [(3R*,4R*)-1-benzyl-4-(isopropylamino-methyl)-pyrrolidin-3-yl]-methanol (1.13 g, 4.31 mmol), NaHCO3 (1.45 g, 17.24 mmol), and Boc2O (1.88 g, 8.62 mmol) in MeOH (50 mL) is stirred overnignt at room temperature. The mixture is heated for 1 h at 65° C., and then concentrated to a few mL of solvent by rotary evaporation. Water and CH2Cl2 are added, the layers are separated and the aqueous one extracted twice with CH2Cl2. The combined organic extracts are dried (MgSO4), and concentrated to give the title compound which is used without further purification in the next step. TLC, Rf (AcOEt)=0.81. MS (LC-MS): 463.3 [M+H]+; tR (HPLC, C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/2.5 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 6.08 min.

reactant | [(3R*,4R*)-1-benzyl-4-(isopropylamino-methyl)-pyrrolidin-3-yl]-methanol | 4.31 mmol, 1.13 g | C(C1=CC=CC=C1)N1C[C@@H]([C@@H](C1)CNC(C)C)CO | C16H26N2O
reactant | NaHCO3 | 17.24 mmol, 1.45 g | C(=O)(O)[O-].[Na+]
reactant | Boc2O | 8.62 mmol, 1.88 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 50 mL | CO | CH4O
product | Carbonic acid (3R*,4S*)-1-benzyl-4-[(tert-butoxycarbonyl-isopropyl-amino)-methyl]-pyrrolidin-3-ylmethyl ester tert-butyl ester | C(C)(C)(C)OC(OC[C@H]1CN(C[C@H]1CN(C(C)C)C(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C26H42N2O5
